US03996374
A solution of 15.0 g. of 5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester in 250 ml. of hexamethylphosphoric acid triamide is treated under nitrogen at 5° C. with 0.055 mol. of sodium hydride (2.5 g. of a 55% dispersion in mineral oil) and then stirred at the same temperature for 15 minutes. At 5°-10° C. a solution of 15 g. of N,N-diethylchloroacetamide in 40 ml. of ethanol is added thereto and the mixture stirred for 30 minutes at room temperature and subsequently heated for 4 hours at 80° C. The mixture is cooled and poured into 2.5 liters of ice-water. After the addition of 150 g. of sodium chloride, the separated product is removed by filtration under suction, washed with water and then dissolved in methylene chloride. The aqueous layer is separated, the organic phase dried over sodium sulfate, filtered and evaporated to dryness. The residue is triturated with 100 ml. of ether, the unreacted starting material crystallizes out. The latter is removed by filtration under vacuum and washed with ether. The ethereal filtrate is evaporated to dryness. The oily residue is cooled and triturated with ether, crystals being obtained. Recrystallization from ethanol yields 5-chloro-2-[(diethylcarbamoyl)methyl]-3-phenylisoindole-1-carboxylic acid ethyl ester; melting point 118°-120° C.

reactant | 5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | C17H14ClNO2
reactant | hexamethylphosphoric acid triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | sodium hydride | [H-].[Na+]
reactant | N,N-diethylchloroacetamide | C(C)N(C(CCl)=O)CC | C6H12ClNO
solvent | ethanol | C(C)O | C2H6O
product | 5-chloro-2-[(diethylcarbamoyl)methyl]-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CC(N(CC)CC)=O | C23H25ClN2O3
